US04677115
Step A: Preparation of 3-(2-thienylthio)propionic acid
n-Butyl lithium (180 g, 2.81 mol) in hexane (1.6M solution) was added to a solution of thiophene (200 ml, 2.5 mol) in 1500 ml ether under N2 while keeping the temperature between 25°-30° C. The mixture was stirred at room temperature for 1 hour then heated at reflux for 2 hours, cooled to -60° C. and sulfur (80.15 g, 2.5 mol) added. The mixture was stirred at -60° to -70° C. for 45 minutes, allowed to warm to -10° C. then cooled to -20° C. and H2O (500 ml) added slowly. The layers were separated and the aqueous layer added to a solution of 3-bromopropionic acid (382.5 g, 2.5 mol) in 250 ml H2O which was neutralized by the addition of K2CO3 (172.8 g, 1.25 mol) prior to the addition of the thiophenethiol. The organic layer was washed with H2O (500 ml and 100 ml) and the aqueous washes were added to the solution of the 3-bromopropionic acid (slight exotherm). The reaction mixture was stirred at room temperature for 18 hours then heated on the steam bath for 1 hour. After cooling to room temperature the mixture was extracted with ether (2×250 ml), cooled in an ice bath and acidified to pH 1.0 with 6NHCl. The acidified, aqueous mixture was extracted with ether (500 ml then 2×375 ml). The ether extracts were combined, washed with H2O (2×250 ml) and dried over Na2SO4. Evaporation of the solvent yielded 410.2 g of crude product, which was distilled in vacuo. The fraction boiling at 154°-164° C. at 0.9 mm Hg was collected yielding 346.8 g (73.7%) of product.

reactant | n-Butyl lithium | 2.81 mol, 180 g | C(CCC)[Li]
reactant | thiophene | 2.5 mol, 200 ml | S1C=CC=C1 | C4H4S
reactant | sulfur | 2.5 mol, 80.15 g | [S] | S
reactant | 3-bromopropionic acid | 2.5 mol, 382.5 g | BrCCC(=O)O | C3H5BrO2
reactant | K2CO3 | 1.25 mol, 172.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | thiophenethiol | S1C(=CC=C1)S | C4H4S2
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | ether | 1500 ml | CCOCC | C4H10O
solvent | H2O | 250 ml | O | H2O
solvent | H2O | 500 ml | O | H2O
product | 3-(2-thienylthio)propionic acid | 346.8 g, 73.7% | S1C(=CC=C1)SCCC(=O)O | C7H8O2S2
